US04009022
Preparation of 3,3'-dimethoxybenzil hydrazone
To a solution of 1.0 g hydrazine hydrate in 25 ml ethanol is added a warm solution of 3,3'-dimethoxybenzil, 7.0 g in 125 ml ethanol. The solution is heated to 65° C for 48 hours. Three drops of acetic acid are added and heating is continued for 48 hours. The solution is concentrated, diluted with 100 ml water and extracted with methylene chloride. The organic layer is removed, dried over magnesium sulfate and the solvent removed. The oily residue is chromatographed on 200 g of BioSil-A using chloroform-benzene mixtures. Elution of product is completed with methylene chloride. The product from chromatography is recrystallized from chloroform-hexane yielding 2.8 g of pale yellow needles. M.P. 109°-110.5°.

reactant | hydrazine hydrate | 1.0 g | O.NN
reactant | 3,3'-dimethoxybenzil | COC=1C=C(C=CC1)C(=O)C(=O)C1=CC(=CC=C1)OC | C16H14O4
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 125 ml | C(C)O | C2H6O
catalyst | acetic acid | Three drops | C(C)(=O)O | C2H4O2
product | 3,3'-dimethoxybenzil hydrazone | COC=1C=C(C=CC1)C(C(=O)C1=CC(=CC=C1)OC)=NN | C16H16N2O3
